US06583089B1
Methyl 5-chloro-4-oxothiochromane-8-carboxylate
At 70° C., 50 g (0.18 mol) of methyl 2-(2-hydroxycarbonyleth-1-yl)thio-4-chlorobenzoate were against [sic] to 500 g of polyphosphoric acid, and the mixture was stirred for 30 minutes. The reaction mixture was subsequently added to water with stirring, and the resulting precipitate was filtered off with suction and dried. This gave 41.1 g (88%) of methyl 5-chloro-4-oxothiochromane-8-carboxylate.

reactant | methyl 2-(2-hydroxycarbonyleth-1-yl)thio-4-chlorobenzoate | 0.18 mol, 50 g | OC(=O)CCSC1=C(C(=O)OC)C=CC(=C1)Cl | C11H11ClO4S
solvent | water | O | H2O
product | Methyl 5-chloro-4-oxothiochromane-8-carboxylate | ClC1=C2C(CCSC2=C(C=C1)C(=O)OC)=O | C11H9ClO3S
